US09315521B2
2-{[(3,5-dichloropyridin-4-yl)methyl]sulfanyl}-6-methylpyrimidin-4-amine
A mixture of 4-(bromomethyl)-3,5-dichloropyridine hydrobromide (2.9 g, 10.5 mmol), 4-amino-6-methylpyrimidine-2-thiol (1.0 g, 7.1 mmol), and triethylamine (3 mL, 21.5 mmol) in absolute EtOH (80 mL) was stirred at room temperature overnight. The mixture was evaporated, co-evaporated with EtOAc (20 mL), and dried in vacuo. The solid residue was treated with water (150 mL). The solid product was recovered by filtration, washed with water (2×25 mL), diethyl ether (2×25 mL), and hexanes (2×25 mL), and dried in vacuo, affording the title compound (1.9 g, 92% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.29 (s, 3H), 4.78 (s, 2H), 6.29 (s, 1H), 8.45 (s (br), 2H), 8.69 (s, 2H); M+302.

reactant | 4-(bromomethyl)-3,5-dichloropyridine hydrobromide | 10.5 mmol, 2.9 g | Br.BrCC1=C(C=NC=C1Cl)Cl
reactant | 4-amino-6-methylpyrimidine-2-thiol | 7.1 mmol, 1.0 g | NC1=NC(=NC(=C1)C)S | C5H7N3S
reactant | triethylamine | 21.5 mmol, 3 mL | C(C)N(CC)CC | C6H15N
solvent | EtOH | 80 mL | CCO | C2H6O
product | 2-{[(3,5-dichloropyridin-4-yl)methyl]sulfanyl}-6-methylpyrimidin-4-amine | 1.9 g, 92% yield | ClC=1C=NC=C(C1CSC1=NC(=CC(=N1)N)C)Cl | C11H10Cl2N4S
